US04728658
N-(2-pyridinyl)pyridine-4-carboxamide-1-oxide
A stirred suspension of the acid chloride in dichloromethane (50ml) at 0° was treated with 2-aminopyridine (1.823 g, 19.4 mmol), warmed to room temperature. After 3 hours the mixture was evaporated in vacuo to give a solid. The solid was dissolved in water (100 ml) and the solution basified with saturated aq. Na2CO3 solution. The precipitate was filtered and recrystallised from water to give the title compound as a three quarter hydrate (1.274 g), m.p. 232°-233° .

reactant | 2-aminopyridine | 19.4 mmol, 1.823 g | NC1=NC=CC=C1 | C5H6N2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 100 ml | O | H2O
solvent | dichloromethane | 50ml | ClCCl | CH2Cl2
product | N-(2-pyridinyl)pyridine-4-carboxamide-1-oxide | N1=C(C=CC=C1)NC(=O)C1=CC=[N+](C=C1)[O-] | C11H9N3O2
